US06184226B2
Synthesis of 4-(4-Methoxybenzyl-4-pyridylamino)-2-phenyl quinazoline
4-(4-pyridylamino)-2-phenyl quinazoline, 1 equivalent, was dissolved in reagent grade acetone, to this was added 5 equivalents of potassium hydroxide and 1.5 equivalents of 4-methoxybenzyl chloride. The mixture was refluxed under nitrogen for 4 hours. After cooling to room temperature the reaction mixture was concentrated and the residue taken up in ethyl acetate and washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate and concentrated to give an oil. This crude material was dissolved in ethyl acetate and chromatographed as in Example 1. EIMS confirmed the product.

reactant | 4-(4-pyridylamino)-2-phenyl quinazoline | N1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C19H14N4
reactant | potassium hydroxide | 5 equivalents | [OH-].[K+]
reactant | 4-methoxybenzyl chloride | 1.5 equivalents | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Methoxybenzyl-4-pyridylamino)-2-phenyl quinazoline | COC1=CC=C(CN(C2=NC(=NC3=CC=CC=C23)C2=CC=CC=C2)C2=CC=NC=C2)C=C1 | C27H22N4O
